US06465472B1
N-Methyl-N-[3,4-(methylenedioxy)phenyl]urea
The title compound was prepared from N-methyl-3,4-(methylenedioxy)aniline and NaOCN by the procedure described in example 1in 56% yield. 1H NMR (CDCl3): 6.75-6.64 (m, 3H), 6.02 (s, 2H), 4.42 (br s, 2H), 3.21(s, 3H).

reactant | N-methyl-3,4-(methylenedioxy)aniline | CNC1=CC2=C(C=C1)OCO2 | C8H9NO2
reactant | NaOCN | O([Na])C#N
product | N-Methyl-N-[3,4-(methylenedioxy)phenyl]urea | 56% yield | CN(C(=O)N)C1=CC2=C(C=C1)OCO2 | C9H10N2O3
